US03946019
A solution of ethyl aminooxyacetate hydrochloride (18.0 g.) in water (64 cc.) is added to a stirred boiling solution of 7H-indolizino[5,6,7-ij]isoquinolin-7-one (16.0 g.) in ethanol (320 cc.) and pyridine (9.1 g.). Boiling is maintained for 3 hours 30 minutes. After cooling, water (640 cc.) is added. The greenish yellow crystals thus obtained are filtered off and washed with 25% ethanol and then with water. After drying, crude 7-ethoxycarbonylmethoxyimino-7H-indolizino[5,6,7-ij isoquinoline (21.6 g.) is obtained and is recrystallised from a mixture of ethyl acetate (110 cc.) and cyclohexane (165 cc.). 7-Ethoxycarbonylmethoxyimino- 7H-indolizino[5,6,7-ij]isoquinoline (13.1 g.), melting at 134° C., is thus obtained.

reactant | ethyl aminooxyacetate hydrochloride | 18.0 g | Cl.NOCC(=O)OCC
reactant | 7H-indolizino[5,6,7-ij]isoquinolin-7-one | 16.0 g | C1=CC=C2C=CN=C3C2=C1N1C=CC=C1C3=O | C14H8N2O
solvent | water | 64 cc | O | H2O
solvent | ethanol | 320 cc | C(C)O | C2H6O
solvent | pyridine | 9.1 g | N1=CC=CC=C1 | C5H5N
solvent | water | 640 cc | O | H2O
product | 7-Ethoxycarbonylmethoxyimino- 7H-indolizino[5,6,7-ij]isoquinoline | 13.1 g | C(C)OC(=O)CON=C1C2=CC=CN2C=2C=CC=C3C=CN=C1C23 | C18H15N3O3
